US04692443
A mixture of 1.3 g of 3-nitropyridine-4-thiol in 4 ml of acetic acid and 15 ml of acetic anhydride containing 1.5 g of zinc dust was heated at reflux for four hours. The reaction mixture was cooled and concentrated to an oil. The oil was dissolved in 5N sodium hydroxide and the alkaline soluton was extracted with diethyl ether. The extracts were combined, dried and concentrated to dryness to afford 557 mg of 2-methylthiazolo[4,5-c]pyridine. M+Theory 150; Found 150.

reactant | 3-nitropyridine-4-thiol | 1.3 g | [N+](=O)([O-])C=1C=NC=CC1S | C5H4N2O2S
reactant | acetic anhydride | 15 ml, 1.5 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
product | 2-methylthiazolo[4,5-c]pyridine | 557 mg | CC=1SC2=C(C=NC=C2)N1 | C7H6N2S
